US06720345B1
c) 3-(3-carboxyphenyl)-1-[(1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-ylmethylene)amino]-2-thioxoimidazolidin-4-one
Ethyl hydrazinoacetate hydrochloride (155 mg, 1.00 mmol) was added to a stirred solution of 3-isothiocyanatobenzoic acid (179 mg, 1.00 mmol) and di-isopropylethylamine (523 uL, 3.00 mmol) in dichloromethane (4 mL). The mixture was stirred for 96 h, evaporated under reduced pressure and partitioned between aqueous acetic acid and ethyl acetate. The organic extracts were washed with water, saturated aqueous sodium chloride, dried (magnesium sulfate) and evaporated under reduced pressure. The residue was chromatographed (silica gel, 5-15% methanol/ethyl acetate, then 20% methanol/ethyl acetate ±0.5% acetic acid) to give 1-amino-3-(3-carboxyphenyl)-2-thioxoimidazolidin-4-one (50 mg, 51%) contaminated with 6% uncyclised by-product, suitable for the next step. A solution of 1-amino-3-(3-carboxyphenyl)-2-thioxoimidazolidin-4-one (50 mg, 0.199 mmol) and 1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazole-4-carbaldehyde (55 mg, 0.239 mmol) in ethanol/methanol (2:1, 15 mL) was allowed to stand a room temperature for 96 h. The solid was filtered off, washed with ether and dried to give the title compound (42 mg, 46%) as a powder. LCMS, m/e 464 [M+H]+.

reactant | 1-amino-3-(3-carboxyphenyl)-2-thioxoimidazolidin-4-one | 0.199 mmol, 50 mg | NN1C(N(C(C1)=O)C1=CC(=CC=C1)C(=O)O)=S | C10H9N3O3S
reactant | 1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazole-4-carbaldehyde | 0.239 mmol, 55 mg | CC=1C=C(C=CC1C)N1N=C(C(=C1O)C=O)C | C13H14N2O2
solvent | ethanol methanol | 15 mL | C(C)O.CO
product | 3-(3-carboxyphenyl)-1-[(1-(3,4-dimethylphenyl)-5-hydroxy-3-methyl-1H-pyrazol-4-ylmethylene)amino]-2-thioxoimidazolidin-4-one | 42 mg, 46% | C(=O)(O)C=1C=C(C=CC1)N1C(N(CC1=O)N=CC=1C(=NN(C1O)C1=CC(=C(C=C1)C)C)C)=S | C23H21N5O4S
